US08247403B2
(2) tert-butyl 9-(2-methylpropyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of tert-butyl 9-(2-methylpropa-1-ene-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (270 mg, 0.890 mmol) and 10% palladium on carbon (50.0 mg) in methanol (6 ml) was stirred under a hydrogen atmosphere for 12 hr. The reaction mixture was filtered, and the filtrate was concentrated. The residue was poured into water, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the desired product (260 mg, 95.6%) as an oil.

reactant | tert-butyl 9-(2-methylpropa-1-ene-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.890 mmol, 270 mg | CC(=CC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)C | C18H25NO3
catalyst | palladium on carbon | 50.0 mg | [Pd] | Pd
solvent | methanol | 6 ml | CO | CH4O
product | tert-butyl 9-(2-methylpropyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 260 mg, 95.6% | CC(CC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)C | C18H27NO3
